US07932272B2
2-(5-(4-Fluoro-benzyl)-thiophen-2-yl)-[1,3]dioxolane
n-Butyl lithium (2.6N hexane solution, 3.3 mL, 8.47 mmol) was added dropwise to a solution of 2-(5-bromo-thiophen-2-yl)-[1,3]dioxolane (1.8 g, 7.7 mmol) in tetrahydrofuran (20 mL) that had been cooled to from −75° to −70° C., and the solution was stirred for 30 minutes. 4-Fluorobenzyl bromide (1.1 mL, 8.47 mmol) was added dropwise to this reaction solution while keeping it at −70° C. or less. After completion of dropwise addition, the reaction solution was gradually allowed to room temperature. Water and ethyl acetate were added to the reaction solution, which was then partitioned, silica gel was added to the organic layer, which was then evaporated in vacuo for adsorption, purification by silica gel column chromatography (hexane, then hexane:ethyl acetate=20:1, then 10:1) was carried out, and the title compound (560 mg, 2.04 mmol, 26.4%) was obtained as a brown oil.

reactant | n-Butyl lithium | 8.47 mmol, 2.6N, 3.3 mL | C(CCC)[Li]
reactant | 2-(5-bromo-thiophen-2-yl)-[1,3]dioxolane | 7.7 mmol, 1.8 g | BrC1=CC=C(S1)C1OCCO1 | C7H7BrO2S
reactant | 4-Fluorobenzyl bromide | 8.47 mmol, 1.1 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-(4-Fluoro-benzyl)-thiophen-2-yl)-[1,3]dioxolane | 2.04 mmol, 560 mg, 26.4% | FC1=CC=C(CC2=CC=C(S2)C2OCCO2)C=C1 | C14H13FO2S
